US07071182B2
2-(4-phenoxyphenyl)-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-4-yl]acetamide
1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-4-ylamine and (4-phenoxy-phenyl)-acetic acid were processed as describe in Example 3 to provide the title compound. 1H NMR (300 MHz, DMSO-D6) δ ppm 1.61 (m, 4 H), 2.43 (m, J=5.43 Hz, 4 H), 2.86 (t, J=6.78 Hz, 2 H), 3.78 (s, 2 H), 4.47 (t, J=6.61 Hz, 2 H), 6.99 (m, 4 H), 7.12 (m, 1 H), 7.29 (m, 1 H), 7.39 (m, 5 H), 7.65 (m, 1 H), 8.27 (m, 1 H), 10.17 (m, 1 H); MS (DCI/NH3) m/z 441 [M+H]+.

reactant | 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-4-ylamine | N1(CCCC1)CCN1N=CC2=C(C=CC=C12)N | C13H18N4
reactant | (4-phenoxy-phenyl)-acetic acid | O(C1=CC=CC=C1)C1=CC=C(C=C1)CC(=O)O | C14H12O3
product | 2-(4-phenoxyphenyl)-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-4-yl]acetamide | O(C1=CC=CC=C1)C1=CC=C(C=C1)CC(=O)NC1=C2C=NN(C2=CC=C1)CCN1CCCC1 | C27H28N4O2
